US06403586B1
(3) Preparation of 6-(4-methoxyphenyl)-4-methylcarbamoyl-2-(2-pyridylmethyl)carbamoylmethyl-2H-pyridazin-3-one
In xylene, 2-ethoxycarbonylmethyl-6-(4-methoxyphenyl)-4-methylcarbamoyl-2H-pyridazin-3-one and 2-(aminomethyl)pyridine were refluxed at 150° C. for 7 hours. Post-treatments were conducted as in Example 47-(2), whereby the title compound was obtained in a yield of 44.5%.

reactant | 2-ethoxycarbonylmethyl-6-(4-methoxyphenyl)-4-methylcarbamoyl-2H-pyridazin-3-one | C(C)OC(=O)CN1N=C(C=C(C1=O)C(NC)=O)C1=CC=C(C=C1)OC | C17H19N3O5
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(4-methoxyphenyl)-4-methylcarbamoyl-2-(2-pyridylmethyl)carbamoylmethyl-2H-pyridazin-3-one | yield of 44.5% | COC1=CC=C(C=C1)C=1C=C(C(N(N1)CC(NCC1=NC=CC=C1)=O)=O)C(NC)=O | C21H21N5O4
